### PR TITLE
feat(Algebra/Order/Ring/Ordering): ring ordering constructions

### PR DESCRIPTION
**Pull request by artie2000**
* add operations on ring preorderings: intersection, bottom element, map, comap
* prove how being an ordering and the support interact with each of these operations

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 1]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
     have := h x y
     have := h x (-y)
     cases (by aesop : x ∈ P ∨ -x ∈ P) <;> simp_all [mem_support]
+
+/-!
+### Supports
+-/
+
+theorem supportAddSubgroup_mono {Q : RingPreordering R} (h : P ≤ Q) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:194]: gcongr? Same below

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 2]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+/-! ## Order operations -/
+
+section Inf
+variable {P₁ P₂ : RingPreordering R}
+
+instance : Min (RingPreordering R) where
+  min P₁ P₂ := { toSubsemiring := min P₁.toSubsemiring P₂.toSubsemiring }
+
+@[simp]
+theorem inf_toSubsemiring : (P₁ ⊓ P₂).toSubsemiring = P₁.toSubsemiring ⊓ P₂.toSubsemiring := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem toSubsemiring_inf : (P₁ ⊓ P₂).toSubsemiring = P₁.toSubsemiring ⊓ P₂.toSubsemiring := rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 3]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+  simp_all [hasIdealSupport_iff]
+
+@[simp]
+theorem support_inf [P₁.HasIdealSupport] [P₂.HasIdealSupport] :
+    (P₁ ⊓ P₂).support = P₁.support ⊓ P₂.support := by
+  apply_fun Submodule.toAddSubgroup using Submodule.toAddSubgroup_injective
+  simpa [-Submodule.toAddSubgroup_inj] using supportAddSubgroup_inf (P₁ := P₁) (P₂ := P₂)
+
+instance : SemilatticeInf (RingPreordering R) where
+  inf := (· ⊓ ·)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 4]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+theorem mem_sInf {x : R} : x ∈ sInf hS ↔ ∀ p ∈ S, x ∈ p := by
+  rw [show x ∈ sInf hS ↔ x ∈ (sInf hS : Set R) by simp [-coe_sInf]]
+  simp_all
+
+@[simp]
+theorem supportAddSubgroup_sInf :
+    (sInf hS).supportAddSubgroup = InfSet.sInf (supportAddSubgroup '' S) := by
+  aesop (add simp mem_supportAddSubgroup)
+
+theorem hasIdealSupport_sInf (h : ∀ P ∈ S, P.HasIdealSupport) : (sInf hS).HasIdealSupport := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
protected theorem HasIdealSupport.sInf (h : ∀ P ∈ S, P.HasIdealSupport) :
    (sInf hS).HasIdealSupport := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 5]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+  le_inf _ _ _ _ _ := by simp_all [← SetLike.coe_subset_coe]
+
+end Inf
+
+section sInf
+variable {S : Set (RingPreordering R)} {hS : S.Nonempty}
+
+variable (hS) in
+/-- The intersection of a nonempty set of preorderings is a ring preordering. -/
+def sInf {S : Set (RingPreordering R)} (hS : S.Nonempty) : RingPreordering R where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
def sInf (S : Set (RingPreordering R)) (hS : S.Nonempty) : RingPreordering R where
```
What goes wrong when the set is empty?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 6]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+  simpa using Set.subset_iInter₂ hP
+
+end sInf
+
+section Bot
+variable [IsSemireal R]
+
+instance : Bot (RingPreordering R) where
+  bot := { toSubsemiring := Subsemiring.sumSq R
+           neg_one_notMem' := by simpa using IsSemireal.not_isSumSq_neg_one }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: trick:
```suggestion
  bot.toSubsemiring := Subsemiring.sumSq R
  bot.neg_one_notMem' := by simpa using IsSemireal.not_isSumSq_neg_one
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 7]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+@[simp] theorem bot_toSubsemiring : (⊥ : RingPreordering R).toSubsemiring = .sumSq R := rfl
+
+@[simp] theorem mem_bot {a} : a ∈ (⊥ : RingPreordering R) ↔ IsSumSq a :=
+  show a ∈ Subsemiring.sumSq R ↔ IsSumSq a by simp
+
+@[simp, norm_cast] theorem coe_bot : (⊥ : RingPreordering R) = {x : R | IsSumSq x} :=
+  show Subsemiring.sumSq R = {x : R | IsSumSq x} by simp
+
+instance : OrderBot (RingPreordering R) where
+  bot := ⊥
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 8]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+  bot_le P a := by aesop
+
+end Bot
+
+section sSup
+variable {S : Set (RingPreordering R)} {hS : S.Nonempty} {hSd : DirectedOn (· ≤ ·) S}
+
+variable (hS) (hSd) in
+/-- The union of a directed set of preorderings is a preordering. -/
+def sSup : RingPreordering R where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Again, can you make sure that not all explicit arguments to a `def` are proofs?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 9]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+    aesop (add simp Subsemiring.mem_sSup_of_directedOn,
+               unsafe forward (Set.Nonempty.some_mem hS))
+  neg_one_notMem' := by
+    have : DirectedOn (· ≤ ·) (toSubsemiring '' S) := directedOn_image.mpr hSd
+    aesop (add simp Subsemiring.mem_sSup_of_directedOn,
+               unsafe forward (Set.Nonempty.some_mem hS))
+
+@[simp]
+theorem sSup_toSubsemiring :
+  (sSup hS hSd).toSubsemiring = SupSet.sSup (RingPreordering.toSubsemiring '' S) := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
    (sSup hS hSd).toSubsemiring = SupSet.sSup (RingPreordering.toSubsemiring '' S) := rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 10]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+    (sSup hS hSd).supportAddSubgroup = SupSet.sSup (supportAddSubgroup '' S) := by
+  ext x
+  rw [AddSubgroup.mem_sSup_of_directedOn (by simp_all) (directedOn_image_supportAddSubgroup hSd)]
+  simp only [mem_supportAddSubgroup, mem_sSup, Set.mem_image, exists_exists_and_eq_and]
+  refine ⟨?_, by aesop⟩
+  rintro ⟨⟨_, hs₁, _⟩, ⟨_, hs₂, _⟩⟩
+  rcases hSd _ hs₁ _ hs₂ with ⟨s, hs⟩
+  exact ⟨s, by aesop⟩
+
+theorem hasIdealSupport_sSup (h : ∀ P ∈ S, P.HasIdealSupport) : (sSup hS hSd).HasIdealSupport := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: ditto

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 11]
```diff
@@ -184,4 +184,338 @@ theorem isOrdering_iff :
...
+    (P.comap f).support = (P.support).comap f := by ext; simp [mem_comap_support]
+
+/-- The preimage of an ordering along a ring homomorphism is an ordering. -/
+instance (P : RingPreordering B) [P.IsOrdering] (f : A →+* B) : IsOrdering (comap f P) where
+  __ : (P.comap f).support.IsPrime := by rw [comap_support]; infer_instance
+
+/-! ## map -/
+
+/-- The image of a preordering `P` along a surjective ring homomorphism
+  with kernel contained in the support of `P` is a preordering. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
with kernel contained in the support of `P` is a preordering. -/
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: There is in general no maximum preordering on a ring - for instance, Q(sqrt 2) can be ordered in two different ways so it has two maximal preorderings (proof: see future PRs!). In particular, a ring is not a preordering of itself since it contains -1.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 8 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Will do; could you explain / link the rationale?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:194]: they're not if and only if, so I don't think it's appropriate?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: this gives an error?

**Comment by YaelDillies** [comment]
I thought we did, under the name `dSup`, but it seems like that's a figment of my imagination. What's definitely true however is that @mans0954 has sunk quite a lot of thought into those issues.

**Comment by artie2000** [comment]
I just had another look and found [CompletePartialOrder](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompletePartialOrder.html#CompletePartialOrder) - should I be using this + junk values?

**Comment by artie2000** [comment]
Doesn't seem to be anything for the sInf situation, though.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:194]: gcongr isn't supposed to preserve provability, eg the prototypical gcongr lemma is `mul_le_mul`

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:194]: gcongr isn't supposed to preserve provability, eg the prototypical gcongr lemma is `mul_le_mul`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 12]
```diff
@@ -184,4 +184,333 @@ theorem isOrdering_iff :
...
+
+section Inf
+variable (P₁ P₂ : RingPreordering R)
+
+instance : Min (RingPreordering R) where
+  min P₁ P₂ := { toSubsemiring := min P₁.toSubsemiring P₂.toSubsemiring }
+
+@[simp]
+theorem toSubsemiring_inf : (P₁ ⊓ P₂).toSubsemiring = P₁.toSubsemiring ⊓ P₂.toSubsemiring := rfl
+@[simp] theorem mem_inf (x : R) : x ∈ P₁ ⊓ P₂ ↔ x ∈ P₁ ∧ x ∈ P₂ := .rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
@[simp] theorem mem_inf {x : R} : x ∈ P₁ ⊓ P₂ ↔ x ∈ P₁ ∧ x ∈ P₂ := .rfl
```

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: why? and in that case should P1 and P2 be implicit too?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: In general iffs should have implicit arguments. Yes p1 and p2 too

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Can we set the infimum of the empty set to some junk value instead? Proofs and data are best separated if possible. And this would also give us proper access to the `sInf` notation and its machinery.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 13]
```diff
@@ -184,4 +184,333 @@ theorem isOrdering_iff :
...
+/-!
+### Supports
+-/
+
+theorem supportAddSubgroup_mono {Q : RingPreordering R} (h : P ≤ Q) :
+    P.supportAddSubgroup ≤ Q.supportAddSubgroup :=
+  fun _ ↦ by aesop (add simp mem_supportAddSubgroup)
+
+theorem support_mono {Q : RingPreordering R} [P.HasIdealSupport] [Q.HasIdealSupport] (h : P ≤ Q) :
+    P.support ≤ Q.support := fun _ ↦ by aesop (add simp mem_support)
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Does this work?
```suggestion
    P.support ≤ Q.support := supportAddSubgroup_mono h
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 8 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: The rationale as I understand it is that it screws up the infobox, instead of showing something like `foo x ...` it will simply show `foo ...`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 14]
```diff
@@ -184,4 +184,333 @@ theorem isOrdering_iff :
...
+instance : OrderBot (RingPreordering R) where
+  bot_le P a := by aesop
+
+end Bot
+
+section sSup
+variable {S : Set (RingPreordering R)} (hS : S.Nonempty) (hSd : DirectedOn (· ≤ ·) S)
+
+variable (S) in
+/-- The union of a directed set of preorderings is a preordering. -/
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Is the directed assumption necessary? Can one not speak of the preordering generated by a set of preorderings?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: That might contain `-1`. If we removed that condition from `RingPreordering`, then there would be no issue

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yes although we wouldn't have access to any of the API because [CompleteSemilatticeSup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Defs.html#CompleteSemilatticeSup) won't hold.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: there's not really a point in doing that because then you're just down to a subsemiring that's bigger than the sum of squares subsemiring
so at that point you might as well make "is a preordering" a predicate on subsemirings
which I think is the wrong design choice
the issue is that preorderings don't form a lattice because you're not guaranteed to be able to make them bigger
I intend to PR a whole file about when you *can* make them bigger!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 13 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: it should but isn't this defeq abuse?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 12 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: what about `toSubsemiring_inf`, `coe_inf`, etc? and then what about eg `comap_support`?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yes, we need something like `CompletePartialOrder` instead

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yes, we need something like `CompletePartialOrder` instead

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: No. The `supportAddSubgroup = support` defeq is okay to use: one is a further bundling of the other!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 15]
```diff
@@ -304,9 +304,23 @@ instance : OrderBot (RingPreordering R) where
...
+theorem nonempty_ringPreordering_iff_isSemireal : Nonempty (RingPreordering R) ↔ IsSemireal R where
+  mp h := Nonempty.elim h fun P ↦ by
+    refine ⟨fun {x} hx hx₂ ↦ ?_⟩
+    apply P.neg_one_notMem
+    rw [show -1 = x by linear_combination -hx₂]
+    aesop
+  mpr h := ⟨⊥⟩
+
+theorem isSemireal (P : RingPreordering R) : IsSemireal R :=
+  nonempty_ringPreordering_iff_isSemireal.mp ⟨P⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem isSemireal (P : RingPreordering R) : IsSemireal R := by
  refine ⟨fun {x} hx hx₂ ↦ ?_⟩
  apply P.neg_one_notMem
  rw [show -1 = x by linear_combination -hx₂]
  aesop
  
theorem nonempty_ringPreordering_iff_isSemireal : Nonempty (RingPreordering R) ↔ IsSemireal R where
  mp | ⟨P⟩ => P.isSemireal
  mpr h := ⟨⊥⟩
```
feels slightly better

**Review by YaelDillies — COMMENTED** [review]
Could you make sure that the `sSup`/`sInf` material is backed by some typeclass? If you (understandably) can't do that yet, would you please drop them from this PR? There's plenty of other material for me to review already.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: > which I think is the wrong design choice

Naïve question: Can you explain why?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: They are rewriting lemmas, and therefore should have enough explicit arguments to direct a rewrite

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: is there a link explaining the difference? I had been treating equalities and iffs the same!

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: does this mean:
"foo_toSubsemiring" : explicit
"mem_foo" : implicit
"coe_foo" : explicit

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I mean, no I can't, because I don't understand the library well enough!
Do we have a rule that substructures must form lattices?
In that case we should rewrite `RingPreordering` into a predicate on `Set R` or possibly `Subsemiring R`. I haven't seen this pattern in Mathlib before, though.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yes, exactly

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: > is there a link explaining the difference? I had been treating equalities and iffs the same!

Been working on a document explaining this, but as always I am short on time!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: This unbundling seems reasonable to me, yes

**Comment by YaelDillies** [comment]
> I want to make this work because the thing I actually want from this PR is the directed `sSup` (for Zorn).

Daily reminders that smaller PRs are (almost) always better, and that it will probably be faster for me to review two PRs, one of which adds the easy stuff, and the other one the hard stuff, rather than a single one that adds both simultaneously.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: hmm OK
feels weird to me because there *is* a lot of structure there, it just isn't quite a lattice

**Comment by artie2000** [comment]
Removed sSup and sInf for now

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: The real question is whether you ever care about the collection of all ring preorderings.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: The real question is whether you ever care about the collection of all ring preorderings.

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: There is a correspondence between orderings (`RingPreordering.IsOrdering`) on a ring and linear orderings of quotient domains. See [my repo](https://github.com/artie2000/real_closed_field/blob/master/RealClosedField/Algebra/Order/Ring/Ordering/Order.lean) for details.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: You mean
```
 Equiv {O : RingPreordering R // HasMemOrNegMem O}
          {p : (I : Ideal R) × LinearOrder (R ⧸ I) // let ⟨I, l⟩ := p; IsOrderedRing (R ⧸ I)}
```
right? I see you state this without even using a dedicated type, which makes me think that you don't need a dedicated type, ie without `RingPreordering` you could do
```
{s : Subsemiring R // s.IsRingPreordering ∧ HasMemOrNegMem s} ≃ 
  Σ I : Ideal R, {l : LinearOrder (R ⧸ I) // IsOrderedRing (R ⧸ I)}
```
which isn't much different

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 16]
```diff
@@ -184,4 +185,212 @@ theorem isOrdering_iff :
...
+  bot.toSubsemiring := Subsemiring.sumSq R
+  bot.neg_one_notMem' := by simpa using IsSemireal.not_isSumSq_neg_one
+
+@[simp] theorem bot_toSubsemiring : (⊥ : RingPreordering R).toSubsemiring = .sumSq R := rfl
+
+@[simp] theorem mem_bot {a} : a ∈ (⊥ : RingPreordering R) ↔ IsSumSq a :=
+  show a ∈ Subsemiring.sumSq R ↔ IsSumSq a by simp
+
+@[simp, norm_cast] theorem coe_bot : (⊥ : RingPreordering R) = {x : R | IsSumSq x} :=
+  show Subsemiring.sumSq R = {x : R | IsSumSq x} by simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:218]:
```suggestion
@[simp, norm_cast] theorem coe_bot : (⊥ : RingPreordering R) = {x : R | IsSumSq x} := rfl
```
no?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 17]
```diff
@@ -184,4 +185,212 @@ theorem isOrdering_iff :
...
+variable [IsSemireal R]
+
+instance : Bot (RingPreordering R) where
+  bot.toSubsemiring := Subsemiring.sumSq R
+  bot.neg_one_notMem' := by simpa using IsSemireal.not_isSumSq_neg_one
+
+@[simp] theorem bot_toSubsemiring : (⊥ : RingPreordering R).toSubsemiring = .sumSq R := rfl
+
+@[simp] theorem mem_bot {a} : a ∈ (⊥ : RingPreordering R) ↔ IsSumSq a :=
+  show a ∈ Subsemiring.sumSq R ↔ IsSumSq a by simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:215]:
```suggestion
@[simp] theorem mem_bot {a} : a ∈ (⊥ : RingPreordering R) ↔ IsSumSq a := .rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 18]
```diff
@@ -184,4 +185,212 @@ theorem isOrdering_iff :
...
+
+variable (f : A →+* B) (P : RingPreordering B)
+
+/-- The preimage of a preordering along a ring homomorphism is a preordering. -/
+def comap : RingPreordering A where
+  __ := P.toSubsemiring.comap f
+  mem_of_isSquare' := by aesop
+
+@[simp]
+theorem coe_comap : (P.comap f : Set A) = f ⁻¹' P := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
@[simp, norm_cast]
theorem coe_comap : (P.comap f : Set A) = f ⁻¹' P := rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 19]
```diff
@@ -184,4 +185,212 @@ theorem isOrdering_iff :
...
+  __ := P.toSubsemiring.map f
+  mem_of_isSquare' hx := by
+    rcases isSquare_subset_image_isSquare hf hx with ⟨x, hx, hfx⟩
+    exact ⟨x, by aesop⟩
+  neg_one_notMem' := fun ⟨x', hx', _⟩ => by
+    have : -(x' + 1) + x' ∈ P := add_mem (hsupp (show f (x' + 1) = 0 by simp_all)).2 hx'
+    aesop
+
+@[simp]
+theorem coe_map : (map f P hf hsupp : Set B) = f '' P := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
@[simp, norm_cast]
theorem coe_map : (map f P hf hsupp : Set B) = f '' P := rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 20]
```diff
@@ -184,4 +185,212 @@ theorem isOrdering_iff :
...
+
+theorem comap_comap (Q : RingPreordering C) (g : B →+* C) :
+    (Q.comap g).comap f = Q.comap (g.comp f) := rfl
+
+instance [HasMemOrNegMem P] : HasMemOrNegMem (P.comap f) where
+  mem_or_neg_mem x := by have := mem_or_neg_mem P (f x); aesop
+
+variable {f P} in
+theorem mem_comap_supportAddSubgroup {x} :
+    x ∈ (P.comap f).supportAddSubgroup ↔ f x ∈ P.supportAddSubgroup := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Do we really need these membership lemmas given that you give formulas for `supportAddSubgroup`/`support`?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 21]
```diff
@@ -5,9 +5,10 @@ Authors: Florent Schaffhauser, Artie Khovanov
...
 module
 
-public import Mathlib.Algebra.Field.IsField
 public import Mathlib.Algebra.Order.Ring.Ordering.Defs
-public import Mathlib.Algebra.Ring.SumsOfSquares
+public import Mathlib.Algebra.Ring.Semireal.Defs
+public import Mathlib.Order.CompletePartialOrder
+public import Mathlib.RingTheory.Ideal.Maps
 public import Mathlib.Tactic.FieldSimp
 public import Mathlib.Tactic.LinearCombination
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Can you remove the `public` from any of these imports?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: That's true. Why is `Subsemiring` a type rather than a predicate?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 16 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:218]: doesn't work: unfolding gets you `(Subsemigroup.square R).nonUnitalSubsemiringClosure` ie the `sInf` of all `AddSubmonoid`s containing `{s : S | IsSquare s}`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 20 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: these lemmas are how I prove those formulas
but I can roll them together

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: `Subsemiring` I don't really know besides "It's on the way to `Subring`". For `Subring`, it precisely is because we care about the collection of all subrings of a ring.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 21 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I don't really understand the module system sorry

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:218]: Oh, right!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yeah, that would be better

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 21 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: OK I did it by trial and error
this is probably very far from optimal though

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: hm
in what way precisely do we care about the collection of subrings?
/genq

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 20 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: (done)

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I've deferred this to a future PR - I don't believe this operation is backed by any currently existing typeclass

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I guess `Subring` is a subobject, and that's enough for us to make it a structure, but eg the collection of ideals is equipped with some multiplication and we build the Picard group and the prime and maximal spectra out of it.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I could get rid of one more, but that's it

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 22]
```diff
@@ -184,4 +185,200 @@ theorem isOrdering_iff :
...
+variable {A B C : Type*} [CommRing A] [CommRing B] [CommRing C]
+
+/-! ## comap -/
+
+section comap
+
+variable (f : A →+* B) (P : RingPreordering B)
+
+/-- The preimage of a preordering along a ring homomorphism is a preordering. -/
+def comap : RingPreordering A where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:282]: Aren't you missing a lemma for the `toSubsemiring` projection?
```suggestion
@[simps toSubsemiring]
def comap : RingPreordering A where
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 23]
```diff
@@ -184,4 +185,200 @@ theorem isOrdering_iff :
...
+
+section map
+
+variable {f : A →+* B} {P : RingPreordering A} (hf : Function.Surjective f)
+    (hsupp : (RingHom.ker f : Set A) ⊆ P.supportAddSubgroup)
+
+variable (f P) in
+/-- The image of a preordering `P` along a surjective ring homomorphism
+with kernel contained in the support of `P` is a preordering. -/
+def map : RingPreordering B where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:332]: Same here

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Yeah I understand why `Ideal` is a type. But yes anyway I can see unbundling preorderings and redefining them as a predicate on subsemirings. idk

**Comment by YaelDillies** [comment]
Maybe this PR should wait until you've refactor ring preorderings to be a predicate?

**Comment by artie2000** [comment]
Closing, the design of this part of the library needs a re-think.
